US09353075B2
Step 1. Preparation of (2R,3S)-3-hydroxy-2-{[(4-phenylbutoxy)carbonyl]amino}butanoic acid
In a four necked round bottom flask, CDI (10.6 g, 65.5 mmol) was added to a solution of 4-phenylbutan-1-ol (5 mL, 32.8 mmol) in anhydrous DMF (70 mL) under argon. After stirring 2 h at rt, D-threonine (3.90 g, 32.8 mmol) dissolved in water (70 mL) and Et3N (6.8 mL, 49.1 mmol) were added. The mixture was heated at 50° C. for 16 h then allowed to cool. Water (700 mL) was added and the mixture washed with Et2O (3×300 mL). The aqueous phase was acidified with 2M HCl solution then extracted with AcOEt (3×500 mL). The collected organic phases were dried over Na2SO4, filtered and the solvent removed under vacuum. The crude was further co-evaporated with toluene to give a pale yellow oil (5.2 g, 54%), which was used in the next step without further purification. MS (ESI) m/z: 296[M+H]+; 294[M−H]−. Rf=0.34 (Cy/AcOEt 2:8+1% CH3COOH). FTIR (cm−1): 3332 (br), 3027, 2978, 2938, 2863, 1719 (br), 1525, 1253, 1069, 779, 748, 699.

reactant | CDI | 65.5 mmol, 10.6 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 4-phenylbutan-1-ol | 32.8 mmol, 5 mL | C1(=CC=CC=C1)CCCCO | C10H14O
reactant | D-threonine | 32.8 mmol, 3.90 g | N[C@H]([C@@H](O)C)C(=O)O | C4H9NO3
reactant | Et3N | 49.1 mmol, 6.8 mL | CCN(CC)CC | C6H15N
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
solvent | water | 70 mL | O | H2O
solvent | Water | 700 mL | O | H2O
product | (2R,3S)-3-hydroxy-2-{[(4-phenylbutoxy)carbonyl]amino}butanoic acid | 5.2 g, 54% | O[C@H]([C@H](C(=O)O)NC(=O)OCCCCC1=CC=CC=C1)C | C15H21NO5
